US07544672B2
A solution of but-3-ynyl 4-methylbenzenesulfonate (2.0 mL) and piperazine (2.0 g) in EtOH (6 mL) was heated to reflux for 30 min. The mixture was concentrated, diluted with NaOH 2 M (8 mL) and extracted with Et2O (50 mL). Evaporation of the organic layer gave a 2:1 mixture of mono and bis-alkylated piperazine (450 mg) which was discarded. The aqueous layer was further extracted with DCM (100 mL) to give of 1-(but-3-ynyl)piperazine (640 mg).

reactant | but-3-ynyl 4-methylbenzenesulfonate | 2.0 mL | CC1=CC=C(C=C1)S(=O)(=O)OCCC#C | C11H12O3S
reactant | piperazine | 2.0 g | N1CCNCC1 | C4H10N2
solvent | EtOH | 6 mL | CCO | C2H6O
product | 1-(but-3-ynyl)piperazine | 640 mg | C(CC#C)N1CCNCC1 | C8H14N2
